US05495020
To acetic acid (350 ml) are added 5% Pd-C (3.5 g) and 2,3,6-trifluoro-5-nitrotoluene (35 g) and the mixture is subjected to catalytic reduction at room temperature under atomospheric pressure. 5% Pd-C is filtered off and the acetic acid is distilled off under reduced pressure. The residue is poured into ice-water, neutralized, extracted with dichloromethane, and the extract is washed with water and dried. The solvent is distilled off under reduced pressure and the obtained residue is distilled under reduced pressure to give 2,4,5-trifluoro-3-methylaniline (22.86 g), as yellow crystals, b.p. 85° C./20 mmHg.

reactant | 2,3,6-trifluoro-5-nitrotoluene | 35 g | FC1=C(C(=C(C=C1F)[N+](=O)[O-])F)C | C7H4F3NO2
catalyst | Pd-C | 3.5 g | [Pd] | Pd
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 2,4,5-trifluoro-3-methylaniline | 22.86 g | FC1=C(N)C=C(C(=C1C)F)F | C7H6F3N
